US07199239B2
[4-({Butyl[4-(4-chlorophenyl)pyrimidin-2-yl]amino}methyl)-2-methylphenoxy]acetic acid
To a solution of ethyl [4-({butyl[4-(4-chlorophenyl)pyrimidin-2-yl]amino}methyl)-2-methylphenoxy]acetate (178 mg, 0.38 mmol) in THF (3 mL) and MeOH (3 mL) was added NaOH (2M; 2 mL) and the resultant mixture agitated for 1.5 h. The mixture was evaporated and acidified with 2M HCl, extracted with CH2Cl2 (10 mL), EtOAc (10 mL). The aqueous was filtered, the filtered solids and solvent extracts combined and the solvent removed in vacuo to afford the title compound as a white solid (161 mg).

reactant | ethyl [4-({butyl[4-(4-chlorophenyl)pyrimidin-2-yl]amino}methyl)-2-methylphenoxy]acetate | 0.38 mmol, 178 mg | C(CCC)N(C1=NC=CC(=N1)C1=CC=C(C=C1)Cl)CC1=CC(=C(OCC(=O)OCC)C=C1)C | C26H30ClN3O3
reactant | NaOH | 2M, 2 mL | [OH-].[Na+]
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | MeOH | 3 mL | CO | CH4O
product | [4-({Butyl[4-(4-chlorophenyl)pyrimidin-2-yl]amino}methyl)-2-methylphenoxy]acetic acid | 161 mg | C(CCC)N(C1=NC=CC(=N1)C1=CC=C(C=C1)Cl)CC1=CC(=C(OCC(=O)O)C=C1)C | C24H26ClN3O3
